US05679683
2-Fluorobenzonitrile (0.61 g, 5 mmol), ethyl thioglycollate (0.60 g, 5 mmol) and NEt3 (1.52 g, 15 mmol) are stirred in DMSO (5 mL) at 100° C. under N2 for 3 h. The reaction mixture is poured onto ice-water (50 mL), and the solid is collected by suction filtration, rinsed with water, and air dried to give ethyl 3-aminobenzothiophene-2-carboxylate (0.78 g, 70%) as a grey-brown solid. 1H NMR (DMSO) δ8.14 (IH, d, J=7.7 Hz), 7.88 (1H, d, J=8.1 Hz), 7.50 (1H, dt, Jd =1.2 Hz, Jt =7.5 Hz), 7.39 (1H, dt, Jd =1.2 Hz, Jt =7.6 Hz), 7.17 (2H, brs), 4.26 (2H, q, J=7.1 Hz), 1.29 (3H, t, J=7.1 Hz).

reactant | 2-Fluorobenzonitrile | 5 mmol, 0.61 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | ethyl thioglycollate | 5 mmol, 0.60 g | CCOC(=O)CS | C4H8O2S
reactant | NEt3 | 15 mmol, 1.52 g | CCN(CC)CC | C6H15N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | ethyl 3-aminobenzothiophene-2-carboxylate | 0.78 g, 70% | NC1=C(SC2=C1C=CC=C2)C(=O)OCC | C11H11NO2S
